US06001997
(e) 4-Methoxybenzyl (6R,7R)-7-amino-3-[(S)-5,5-dimethyltetrahydrofuran-2-yl]ceph-3-em-4-carboxylate
Phosphorus pentachloride (48 mg, 0.23 mmol) in dichloromethane (1.2 ml) was added to 4-methoxybenzyl (6R,7R)-3-[(S)-5,5-dimethyltetrahydrofuran-2-yl]-7-phenylacetamidoceph-3-em-4-carboxylate (93 mg, 0.15 mmol) and N-methylmorpholine (34 μl, 0.31 mmol) in dichloromethane (3 ml) at -25° C. The reaction was stirred at -10±5° C. for 45 min., then methanol (0.5 ml) was added, and stirring continued for 45 min. at room temperature. Water (1 ml) was then added, and the mixture vigorously stirred for a further 1 h. After evaporation of the dichloromethane in vacuo, the pH of the aqueous residue was adjusted to 7 by the addition of ammonium hydroxide in the presence of ethyl acetate. The mixture was extracted with ethyl acetate (x2), dried and concentrated in vacuo. The residue was purified by chromatography on silica gel eluting with 70% ethyl acetate in hexane yielding the title compound (25 mg, 39%); (Found: M+ 418.1566. C21H26N2O5S requires M+ 418.1562); νmax (CH2Cl2) 2970, 1777, 1721, 1613 and 1516 cm-1 ; δH (CDCl3, 250 MHz) 1.21 (3 H, s), 1.27 (3 H, s), 1.68-1.81 (3 H, m), 2.25 (1 H, m), 3.48 and 3.62 (2 H, ABq, J 18.7 Hz), 3.56 (2 H, br s, exch.), 3.79 (3 H, s), 4.73-5.25 (5 H, m), 6.87 (2 H, d, J 8.6 Hz) and 7.30 (2 H, d, J 8.6 Hz).

reactant | Phosphorus pentachloride | 0.23 mmol, 48 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 4-methoxybenzyl (6R,7R)-3-[(S)-5,5-dimethyltetrahydrofuran-2-yl]-7-phenylacetamidoceph-3-em-4-carboxylate | 0.15 mmol, 93 mg | CC1(CC[C@H](O1)C=1CS[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)OC)C([C@H]2NC(CC2=CC=CC=C2)=O)=O)C | C29H32N2O6S
reactant | N-methylmorpholine | 0.31 mmol, 34 μl | CN1CCOCC1 | C5H11NO
reactant | methanol | 0.5 ml | CO | CH4O
solvent | dichloromethane | 1.2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | Water | 1 ml | O | H2O
product | 4-Methoxybenzyl (6R,7R)-7-amino-3-[(S)-5,5-dimethyltetrahydrofuran-2-yl]ceph-3-em-4-carboxylate | N[C@H]1[C@@H]2N(C(=C(CS2)[C@H]2OC(CC2)(C)C)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C21H26N2O5S
